US05011927
Preparation of 2-amino-4-fluoro-6-isopropyloxypyrimidine (Variant A)
29.4 g (0.3 mol) of potassium isopropylate were reacted as in 1.2 with 39.3 g (0.3 mol) of 2-amino-4,6-difluoropyrimidine (A.1a) in a total of 400 ml of isopropanol. After the working up, washing with petroleum ether and water in the usual manner, 38.5 g (75% of theory) of the title compound of melting point 66°-68° C. were obtained.

reactant | potassium | 0.3 mol, 29.4 g | [K] | K
reactant | 2-amino-4,6-difluoropyrimidine | 0.3 mol, 39.3 g | NC1=NC(=CC(=N1)F)F | C4H3F2N3
reactant | isopropanol | 400 ml | C(C)(C)O | C3H8O
product | 2-amino-4-fluoro-6-isopropyloxypyrimidine | NC1=NC(=CC(=N1)F)OC(C)C | C7H10FN3O
